US06489273B1
100 g (0.67 mol) of 2-phenyl-1,1-dimethyl ethanol (manufactured by Hokko Kagaku Corp. Ltd.) and 1.0 g of 5% ruthenium/silica were placed in a 500 ml stainless autoclave. The resulting mixture was placed under a hydrogen pressure of 50 atmospheres, heated to a reaction temperature of 150° C., and agitated for 5 hours. After cooling to room temperature, the catalyst was removed by filtration. Vacuum distillation of the resulting crude reaction product was conducted with a Claisen distillation device, to give 92 g of 2-cyclohexyl-1,1-dimethyl ethanol was obtained (yield: 88%, purity: 99%).

reactant | 2-phenyl-1,1-dimethyl ethanol | 0.67 mol, 100 g | C1(=CC=CC=C1)CC(O)(C)C | C10H14O
catalyst | ruthenium/silica | 1.0 g | [Ru] | Ru
product | 2-cyclohexyl-1,1-dimethyl ethanol | 92 g, yield: 88% | C1(CCCCC1)CC(O)(C)C | C10H20O
